US04761415
The reaction of 3-mercapto-4-benzyl-5-[(4-methyl-piperazinyl)methyl]-1,2,4-triazole prepared as in Example 1 with methyl iodide and sodium methoxide in methanol by standard techniques yields 3-methylthio-4- benzyl-5-[(4-methyl-1-piperazinyl)methyl]-1,2,4-triazole.

reactant | 3-mercapto-4-benzyl-5-[(4-methyl-piperazinyl)methyl]-1,2,4-triazole | SC1=NN=C(N1CC1=CC=CC=C1)CN1CCN(CC1)C | C15H21N5S
reactant | methyl iodide | CI | CH3I
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-methylthio-4- benzyl-5-[(4-methyl-1-piperazinyl)methyl]-1,2,4-triazole | CSC1=NN=C(N1CC1=CC=CC=C1)CN1CCN(CC1)C | C16H23N5S
